US04705557
A stirred solution of 48.0 g (0.27 mole) of 4-chloro-2-fluoro-5-methoxyaniline in 500 mL of concentrated hydrochloric acid was cooled to -5° C. and 23.5 g (0.34 mole) of sodium nitrite in 100 mL of water was added dropwise. After complete addition, the reaction mixture was stirred at 0° C. for one hour. A second solution of 154.0 g (0.68 mole) of stannous chloride in 225 mL of concentrated hydrochloric acid was cooled to 0° C., and the cold diazonium solution prepared above was added to it slowly. After complete addition, the reaction mixture was allowed to warm to ambient temperature. The reaction mixture was filtered to collect a solid. This solid was dissolved in an aqueous 50% sodium hydroxide solution, and the solution extracted with toluene. The toluene extract was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield 22.4 g of 4-chloro-2-fluoro-5-methoxyphenylhydrazine as a solid.

reactant | 4-chloro-2-fluoro-5-methoxyaniline | 0.27 mole, 48.0 g | ClC1=CC(=C(N)C=C1OC)F | C7H7ClFNO
reactant | sodium nitrite | 0.34 mole, 23.5 g | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 500 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | hydrochloric acid | 225 mL | Cl | ClH
product | 4-chloro-2-fluoro-5-methoxyphenylhydrazine | 22.4 g | ClC1=CC(=C(C=C1OC)NN)F | C7H8ClFN2O
